US07592334B2
(d) 6-((E)-Styryl)-4H-pyrido[3,2-b][1,4]oxazin-3-one
6-Bromo-4H-pyrido[3,2-b][1,4]oxazin-3-one (6.0 g, 26.3 mmole) and trans-2-phenylvinylboronic acid (3.9 g, 26.3 mmole) were dissolved in 1,4-dioxane (150 mL) and the solution was degassed with argon. (Ph3P)4Pd (230 mg, 0.2 mmole) was added, followed by a solution of potassium carbonate (6.9 g, 50 mmole) in H2O (20 mL). The reaction was heated at reflux under argon overnight, then was cooled to room temperature and diluted with EtOAc (200 mL). The solution was washed sequentially with H2O and brine, dried (Na2SO4), and concentrated in vacuo. The solid residue was purified by flash chromatography on silica gel (5-10% EtOAc/CHCl3) to afford a solid (2.5 g, 38%): LCMS (ES) m/z 253.0 (M+H)+.

reactant | 6-Bromo-4H-pyrido[3,2-b][1,4]oxazin-3-one | 26.3 mmole, 6.0 g | BrC=1C=CC=2OCC(NC2N1)=O | C7H5BrN2O2
reactant | trans-2-phenylvinylboronic acid | 26.3 mmole, 3.9 g | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
reactant | potassium carbonate | 50 mmole, 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 20 mL | O | H2O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | (Ph3P)4Pd | 0.2 mmole, 230 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-((E)-Styryl)-4H-pyrido[3,2-b][1,4]oxazin-3-one | 2.5 g, 38% | C(=C\C1=CC=CC=C1)/C=1C=CC=2OCC(NC2N1)=O | C15H12N2O2
